US06245804B1
11 g of 4-amino-2-bromobenzoic acid-allylamide, 5.2 ml of acetonylacetone and 200 mg of 4-toluenesulfonic acid are refluxed for 1.5 hours with a water separator. Then, the solution is diluted with ethyl acetate, washed with 1N hydrochloric acid and then with potassium carbonate solution, dried (Na2SO4) and concentrated by evaporation. The residue is crystallized with hexane. 13.4 g of N-allyl-2-bromo-4-(2,5-dimethylpyrrol-1-yl)-benzamide, melting point 136-138° C., is obtained.

reactant | 4-amino-2-bromobenzoic acid-allylamide | 11 g | C(C=C)NC(C1=C(C=C(C=C1)N)Br)=O | C10H11BrN2O
reactant | acetonylacetone | 5.2 ml | C(C(=O)C)CC(C)=O | C6H10O2
reactant | 4-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-allyl-2-bromo-4-(2,5-dimethylpyrrol-1-yl)-benzamide | 13.4 g | C(C=C)NC(C1=C(C=C(C=C1)N1C(=CC=C1C)C)Br)=O | C16H17BrN2O
